US05756760
Synthesis of 1-((2R,5R)-2,5-Dimethylpyrrolidinylmethyl)-2-diphenylphosphinonaphthalene (Ib)
A two-necked eggplant flask containing 110 mg of 1-((2R,5R)-2,5-dimethylpyrrolidinylmethyl)-2-diphenylphosphinylnaphthalene was purged with nitrogen, and 8 ml of anhydrous xylene was put in and dissolved. Then, 0.22 ml of triethylamine and 0.15 ml of trichlorosilane were added thereto, and the mixture was slowly heated to 120° C. to react for 5 hours. The reaction was ceased with 2N NaOH, and the reaction mixture was extracted with ethyl ether, washed with water, and dried over anhydrous magnesium sulfate. The crude product was purified by silica gel column chromatography to obtain 27.1 mg (26%) of the title compound.

reactant | 1-((2R,5R)-2,5-dimethylpyrrolidinylmethyl)-2-diphenylphosphinylnaphthalene | 110 mg | C[C@H]1N([C@@H](CC1)C)CC1=C(C=CC2=CC=CC=C12)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30NOP
reactant | NaOH | 2N | [OH-].[Na+]
product | 1-((2R,5R)-2,5-Dimethylpyrrolidinylmethyl)-2-diphenylphosphinonaphthalene | 27.1 mg, 26% | C[C@H]1N([C@@H](CC1)C)CC1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30NP
